US05591862
To a mixture of 5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]pentan-1-ol (1.1 g), triethylamine (0.333 g) and dichloromethane (40 ml) was added dropwise, under ice-cooling, methanesulfonyl chloride (0.345 g). The mixture was stirred for 2 hours at room temperature, which was washed with water and dried (MgSO4). The solvent was distilled off to leave 5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]pentyl methanesulfonate (1.21 g, 92%). Recrystallization from dichloromethane-ether gave colorless prisms, m.p.132°-133° C.

reactant | 5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]pentan-1-ol | 1.1 g | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(C=C1)CCCCCO | C26H27NO3
reactant | triethylamine | 0.333 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.345 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]pentyl methanesulfonate | 1.21 g, 92% | CS(=O)(=O)OCCCCCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC2=CC=CC=C2C=C1 | C27H29NO5S
